US04478833
8-Benzylthio-2-(1-oxido-thiomorpholino)-4-thiomorpholinopyrimido[5,4-d}pyrimidine
This compound was prepared analogous to Example 1 from 8-benzylthio-2-chloro-4-thiomorpholino-pyrimido[5,4-d]pyrimidine (melting point: 175°-177° C.) and thiomorpholine1-oxide.

reactant | 8-benzylthio-2-chloro-4-thiomorpholino-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCSCC2)Cl | C17H16ClN5S2
reactant | thiomorpholine1-oxide | N1CCS(CC1)=O | C4H9NOS
product | 8-Benzylthio-2-(1-oxido-thiomorpholino)-4-thiomorpholinopyrimido[5,4-d}pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCSCC2)N2CCS(CC2)=O | C21H24N6OS3
